US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3-[benzoylamino]phenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (50 mg, 0.16 mmol), N,N-dimethylaminopyridine (3 mg, 0,024 mmol), benzoic acid (21 mg, 0.18 mmol), and 0.4 mL of dichloromethane. 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide (EDCI) hydrochloride (120 mg, 0.64 mmol) was added in one portion, and the mixture was stirred at room temperature for 10 min. The mixture was diluted with dichloromethane, and the organic phase was washed with water followed by brine. The organic phase was dried over sodium sulfate, concentrated, and chromatographed on silica gel (0-50% methanol/ethyl acetate eluent gradient) to give 50 mg (76%) of the title compound as an amorphous foam. mp 257°-262° (decomp.) FDMS m/e=424. α[D]589 =+62.50 (c=0.61, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.16 mmol, 50 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC=C3)N)C)=O | C21H24N2O
reactant | benzoic acid | 0.18 mmol, 21 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide | 0.64 mmol, 120 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.4 mL | ClCCl | CH2Cl2
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-[benzoylamino]phenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 50 mg, 76% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC=C3)NC(C3=CC=CC=C3)=O)C)=O | C28H28N2O2
